US07183036B2
Hydroxynaphthalene Methacrylate-Containing Terpoylmer Synthesis:
5-hydroxy-1-naphthalenyl methacrylate (a.k.a. hydroxynaphthalene methacrylate or NAMA) monomer (2.60 g, 0.0045 mole), hexafluoroisopropyl methacrylate (iPrHFAMA) monomer (23.20 g, 0.0800 mole), 2-methacryloyl-gamma-butyrolactone (a.k.a. gamma-butyrolactone methacrylate or GBLMA) monomer (3.88 g, 0.0051 mole), azobisisobutyronitrile (AlBN) (0.91 g, 10% the total mole of all monomers), 150 g of tetrahydrofuran (THF) and 72 g of ethylacetate were added to a 250 ml 3-neck round bottom flask equipped with condenser, thermometer, nitrogen inlet and magnetic stirrer bar. The reaction mixture was stirred at room temperature and bubbled with N2 flow for 45 minutes after which is was heated to 67–70° C. and stirred for 14 hours with a blanket N2 flow. After reaction, the solution was then cooled to room temperature and added dropwise to 1200 g of hexane. The resulting slurry was stirred for two hours before filtration. Solid was air dried on the Buckner filter for 1.5 hours, dissolved in acetone (15% wt-wt) and reprecipitated in 1200 g of hexane. The slurry was again stirred for two hours before filtration. The solid was collected and air dried for 2–3 hours before final drying in a vacuum oven at 60° C. overnight. Yield: 90%.

reactant | 5-hydroxy-1-naphthalenyl methacrylate | C(C(=C)C)(=O)OC1=CC=CC2=C(C=CC=C12)O | C14H12O3
reactant | hexafluoroisopropyl methacrylate | C(C(=C)C)(=O)OC(C(F)(F)F)C(F)(F)F | C7H6F6O2
reactant | 2-methacryloyl-gamma-butyrolactone | C(C(=C)C)(=O)C1C(=O)OCC1 | C8H10O3
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | hexane | 1200 g | CCCCCC | C6H14
solvent | ethylacetate | 72 g | C(C)OC(C)=O | C4H8O2
solvent | tetrahydrofuran | 150 g | O1CCCC1 | C4H8O
product | Hydroxynaphthalene Methacrylate | Yield: 90% | C(C(=C)C)(=O)O.OC1=CC=CC2=CC=CC=C12 | InChI=1S/C10H8O.C4H6O2/c11-10-7-3-5-8-4-1-2-6-9(8)10;1-3(2)4(5)6/h1-7,11H;1H2,2H3,(H,5,6)
